US04377695
8-(5-Nitro-2-oxo-benzoxazolin-3-yl)-caprylic acid
The product is produced as described in example 22 from 18.3 g. of 8-(5-nitro-2-oxo-benzoxazolin-3-yl)-caprylic acid methyl ester and 2.4 g. of NaOH. Eluant in chromatographic purification: chloroform.

reactant | 8-(5-nitro-2-oxo-benzoxazolin-3-yl)-caprylic acid methyl ester | COC(CCCCCCCN1C(OC2=C1C=C(C=C2)[N+](=O)[O-])=O)=O | C16H20N2O6
reactant | NaOH | [OH-].[Na+]
product | 8-(5-Nitro-2-oxo-benzoxazolin-3-yl)-caprylic acid | [N+](=O)([O-])C=1C=CC2=C(N(C(O2)=O)CCCCCCCC(=O)O)C1 | C15H18N2O6
